US08536168B2
5,6-Dihydro-furo[2,3-d]pyridazine-4,7-dione (Compound 45)
Furan-2,3-dicarboxylic acid dimethyl ester (1.6 g, 8.69 mmol) is added to EtOH (10 mL) and hydrazine hydrate (1.46 mL, 55% in water). Heat the reaction to reflux for 5-6 h. Cool and concentrate in vacuo to form a slurry. Dilute the material with additional H2O and filter the precipitate. Wash with additional H2O. Transfer material from filter to a round bottom flask and add HCl (7.2 mL, 2N in H2O). Heat reaction mixture to reflux for 4 h. Cool and filter the precipitate washing with H2O, to yield the title compound without further purification (930 mg, 70%)

reactant | Furan-2,3-dicarboxylic acid dimethyl ester | 8.69 mmol, 1.6 g | COC(=O)C=1OC=CC1C(=O)OC | C8H8O5
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | hydrazine hydrate | 1.46 mL | O.NN
solvent | H2O | O | H2O
product | 5,6-Dihydro-furo[2,3-d]pyridazine-4,7-dione | O1C=CC2=C1C(NNC2=O)=O | C6H4N2O3
